*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-681_freq port1 port2 PARAMS: Cpar=0.2pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.04
+ C= {Cpar}
+ K1=0.0001
+ K2=0.21
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4269.21895
.ends PFL4517-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-1000MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-681_imp port1 port2 PARAMS: Cpar=0.168pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.04
+ C= {Cpar}
+ K1=0.0001
+ K2=0.21
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4269.21895
.ends PFL4517-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-102_freq port1 port2 PARAMS: Cpar=0.33pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.05
+ C= {Cpar}
+ K1=0.0014
+ K2=0.42
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000068
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6153.624
.ends PFL4517-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-102_imp port1 port2 PARAMS: Cpar=0.288pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.05
+ C= {Cpar}
+ K1=0.0014
+ K2=0.42
+ K3= {Ind}
+ K4=0.017
+ K5=0.0000068
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6153.624
.ends PFL4517-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-222_freq port1 port2 PARAMS: Cpar=0.31pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=75
+ R2=0.078
+ C= {Cpar}
+ K1=0.002
+ K2=0.94
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000083
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11008.9823
.ends PFL4517-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-400MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-222_imp port1 port2 PARAMS: Cpar=0.258pF Ind=2.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=75
+ R2=0.078
+ C= {Cpar}
+ K1=0.002
+ K2=0.94
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000083
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11008.9823
.ends PFL4517-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-332_freq port1 port2 PARAMS: Cpar=0.15pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.15
+ C= {Cpar}
+ K1=0.000525
+ K2=1.15
+ K3= {Ind}
+ K4=0.075
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16013.2054
.ends PFL4517-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-500MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-332_imp port1 port2 PARAMS: Cpar=0.124pF Ind=3.3uH
X1 port1 port2 Model1D PARAMS:
+ R1=125
+ R2=0.15
+ C= {Cpar}
+ K1=0.000525
+ K2=1.15
+ K3= {Ind}
+ K4=0.075
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16013.2054
.ends PFL4517-332_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-472_freq port1 port2 PARAMS: Cpar=0.21pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.21
+ C= {Cpar}
+ K1=0.005
+ K2=1.5
+ K3= {Ind}
+ K4=0.09
+ K5=0.00000705
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18020.9799
.ends PFL4517-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-472_imp port1 port2 PARAMS: Cpar=0.182pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.21
+ C= {Cpar}
+ K1=0.005
+ K2=1.5
+ K3= {Ind}
+ K4=0.09
+ K5=0.00000705
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18020.9799
.ends PFL4517-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-562
* Inductance = 5.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-562_freq port1 port2 PARAMS: Cpar=0.26pF Ind=5.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.24
+ C= {Cpar}
+ K1=0.0007
+ K2=1.6
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000093
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17977.2991
.ends PFL4517-562_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-562
* Inductance = 5.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-562_imp port1 port2 PARAMS: Cpar=0.237pF Ind=5.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.24
+ C= {Cpar}
+ K1=0.0007
+ K2=1.6
+ K3= {Ind}
+ K4=0.07
+ K5=0.0000093
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=17977.2991
.ends PFL4517-562_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-822_freq port1 port2 PARAMS: Cpar=0.13pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.39
+ C= {Cpar}
+ K1=0.0011
+ K2=2.2
+ K3= {Ind}
+ K4=0.21
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26676.4693
.ends PFL4517-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-822_imp port1 port2 PARAMS: Cpar=0.106pF Ind=8.2uH
X1 port1 port2 Model1D PARAMS:
+ R1=125
+ R2=0.39
+ C= {Cpar}
+ K1=0.0011
+ K2=2.2
+ K3= {Ind}
+ K4=0.21
+ K5=0.0000096
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=26676.4693
.ends PFL4517-822_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL4517-103_freq port1 port2 PARAMS: Cpar=0.26pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.62
+ C= {Cpar}
+ K1=0.0008
+ K2=3.2
+ K3= {Ind}
+ K4=0.15
+ K5=0.00000965
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=30961.5455
.ends PFL4517-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL4517-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL4517-103_imp port1 port2 PARAMS: Cpar=0.233pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.62
+ C= {Cpar}
+ K1=0.0008
+ K2=3.2
+ K3= {Ind}
+ K4=0.15
+ K5=0.00000965
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=30961.5455
.ends PFL4517-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
